US06949648B2
A mixture of 5-fluoro-2-nitrotoluene (25.0 g, 161 mmol), potassium permanganate (102 g, 645 mmol) and water (500 mL) was heated and stirred at 100° C. for 3 hours. The solution was cooled to room temperature, and insoluble matter derived from potassium permanganate was removed by celite filtration. The filtrate was washed with diethylether, made acidic by the addition of conc. hydrochloric acid, and organic matter was extracted with diethyl ether. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give 5-fluoro-2-nitrobenzoic acid. To a solution of 5-fluoro-2-nitro benzoic acid thus obtained in ethanol (100 mL) was added 10% palladium-carbon (0.5 g, 50% hydrate), and the mixture was stirred at room temperature under hydrogen atmosphere for 4 hours. The solution was filtered to remove the catalyst, and the filtrate was concentrated under reduced pressure to give the title compound (6.25 g, 25% yield).

reactant | 5-fluoro-2-nitrotoluene | 161 mmol, 25.0 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | potassium permanganate | 645 mmol, 102 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 500 mL | O | H2O
product | 5-fluoro-2-nitrobenzoic acid | FC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4FNO4
